US04303656
(b) 2-(N-benzyl-N-methylaminomethyl)chroman-4-one
A stirred solution of 2-(N-benzyl-N-methylaminomethyl)chromone (15.6 g) in dry tetrahydrofuran (400 ml) at -78° C., was treated with a suspension of LiAlH4 (3.2 g) in dry tetrahydrofuran (50 ml) and the resulting mixture was stirred at -78° C. for 4 hours before being acidified with glacial acetic acid and allowed to stand at room temperature for 17 hours. The mixture was then filtered and the filtrate was evaporated, dissolved in chloroform and washed with water. The dried, evaporated organic extracts gave an oil which was chromatographed on alumina eluting with ether to give the title compound as a yellow oil (4.9 g).

reactant | 2-(N-benzyl-N-methylaminomethyl)chromone | 15.6 g | C(C1=CC=CC=C1)N(C)CC=1OC2=CC=CC=C2C(C1)=O | C18H17NO2
reactant | LiAlH4 | 3.2 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(N-benzyl-N-methylaminomethyl)chroman-4-one | 4.9 g | C(C1=CC=CC=C1)N(C)CC1OC2=CC=CC=C2C(C1)=O | C18H19NO2
